US06903086B2
To a solution of ethyl 5-bromo-benzofuran-2-carboxylate (5 g; 18.6 mmol) in 65 mL THF under nitrogen, was added DIBAL (46 mL, 46 mmol) dropwise over 30 minutes, then stirred overnight at room temperature. After dropwise addition of 25 mL of water, the mixture was evaporated, extracted with ethyl acetate, filtered, washed, dried (MgSO4) and evaporated to yield 4.2 g of crude product which was further purified by chromatography to afford (5-bromo-benzofuran-2-yl)-methanol.

reactant | ethyl 5-bromo-benzofuran-2-carboxylate | 18.6 mmol, 5 g | BrC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9BrO3
reactant | DIBAL | 46 mmol, 46 mL | CC(C)C[AlH]CC(C)C
reactant | water | 25 mL | O | H2O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | (5-bromo-benzofuran-2-yl)-methanol | BrC=1C=CC2=C(C=C(O2)CO)C1 | C9H7BrO2
